US07645771B2
Preparation of 2-chloro-4-fluoro-5-[(propylamino)sulfonyl]benzoic acid
2.512 g (9.2 mmol) 3-chlorosulfonyl-4-fluorobenzoic acid was added to 2.27 mL (27.6 mmol) propylamine following the general procedure in for 2-chloro-5-[(ethylamino)sulfonyl]-4-fluorobenzoic acid. Crude product was used in subsequent step without further purification. 1H NMR (300 MHz, DMSO-d6) δ8.19-8.22 (d, 1H, J=7.84 Hz), 8.12-8.16 (t, 1H, J=11.59 Hz), 7.85-7.88 (d, 1H, J=9.90 Hz), 2.80-2.87 (q, 2H, J=6.82), 1.33-1.45 (m, 2H), 0.77-0.82 (t, 3H, J=7.51 Hz).

reactant | 3-chlorosulfonyl-4-fluorobenzoic acid | 9.2 mmol, 2.512 g | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1F | C7H4ClFO4S
reactant | propylamine | 27.6 mmol, 2.27 mL | C(CC)N | C3H9N
reactant | 2-chloro-5-[(ethylamino)sulfonyl]-4-fluorobenzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)F)S(=O)(=O)NCC | C9H9ClFNO4S
product | 2-chloro-4-fluoro-5-[(propylamino)sulfonyl]benzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)F)S(=O)(=O)NCCC | C10H11ClFNO4S
